US05389651
Following the procedure of Example 1, 2-[4-(1-methyl-n-butoxy)phenoxy]ethanol (0.80 g, 3.6 mmol) in 5 ml of DMF is added to sodium hydride (0.26 g, 5.3 mmol) in 5 ml of DMF, followed by addition of 2-chloropyridine (0.50 g, 5.3 mmol) to give 2-{2-[4-(1-methyl-n-butoxy)phenoxy]ethoxy}pyridine.

reactant | 2-[4-(1-methyl-n-butoxy)phenoxy]ethanol | 3.6 mmol, 0.80 g | CC(CCC)OC1=CC=C(OCCO)C=C1 | C13H20O3
reactant | sodium hydride | 5.3 mmol, 0.26 g | [H-].[Na+]
reactant | 2-chloropyridine | 5.3 mmol, 0.50 g | ClC1=NC=CC=C1 | C5H4ClN
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{2-[4-(1-methyl-n-butoxy)phenoxy]ethoxy}pyridine | CC(CCC)OC1=CC=C(OCCOC2=NC=CC=C2)C=C1 | C18H23NO3
